US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (50.0 mg, 0.173 mmol) and 1-(4-bromo-benzyl)-4-methyl-piperazine (56.0 mg, 0.208 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (20.0 mg, 0.0366 mmol) as the ligand in a manner analogous to Step 2d and was isolated as a pale yellow foam (0.010 g, 12%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.50 (d, J=6.4 Hz, 1H), 8.24 (d, J=8.2 Hz, 2H), 8.09 (d, J=8.2 Hz, 2H), 7.66 (d, J=7.1 Hz, 1H), 7.54 (d. J=7.8 Hz, 2H), 7.31 (d, J=7.9 Hz, 2H), 7.02 (t, J=6.7 Hz, 1H), 6.86 (s, 1H), 3.49 (s, 2H), 3.11 (s, 3H), 2.46 (br s, 8H), 2.29 (s, 3H). MS=477 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.173 mmol, 50.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 1-(4-bromo-benzyl)-4-methyl-piperazine | 0.208 mmol, 56.0 mg | BrC1=CC=C(CN2CCN(CC2)C)C=C1 | C12H17BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0366 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)CN2CCN(CC2)C | C25H28N6O2S
